US07968570B2
A mixture of cyclopropyl-methylamine (1.3 mmol, 0.111 mL), 2-bromomethyl-4-chloro-6-iodo-benzoic acid methyl ester (0.389 g, 1.0 mmol), and K2CO3 (0.277 g, 2 mmol) in toluene (4 mL) was heated with stirring at 100° C. for 2 h. The resulting mixture was filtered and concentrated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-Cyclopropyl methyl-5-chloro-7-iodo-2,3-dihydro-isoindol-1-one (0.123 g, 35%). 1H NMR (300 MHz, CDCl3): δ (ppm) 0.32 (m, 2H), 0.60 (m, 2H), 1.04 (m, 1H), 3.46 (d, 2H), 4.36 (s, 2H), 7.43 (s, 1H), 7.90 (s, 1H). GC-MS: m/z 347 (M)+0.332 (M−15)+

reactant | cyclopropyl-methylamine | 1.3 mmol, 0.111 mL | C1(CC1)NC | C4H9N
reactant | 2-bromomethyl-4-chloro-6-iodo-benzoic acid methyl ester | 1.0 mmol, 0.389 g | COC(C1=C(C=C(C=C1I)Cl)CBr)=O | C9H7BrClIO2
reactant | K2CO3 | 2 mmol, 0.277 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl methyl-5-chloro-7-iodo-2,3-dihydro-isoindol-1-one | 0.123 g, 35% | C1(CC1)N1C(C2=C(C=C(C=C2C1C)Cl)I)=O | C12H11ClINO
